US04770976
Preparation of 1-(N,N-dibutylaminocarbonyloxy)-2-phenylphenanthroimidazole
10 parts of 1-hydroxy-2-phenylphenanthroimidazole, 8 parts of anhydrous potassium carbonate and 6.7 parts of N,N-dibutylcarbamyl chloride in 100 parts of tetrahydrofuran are refluxed for 5 hours. 100 parts of water and 200 parts of ethyl acetate are then added. The organic phase is washed with water, dried over sodium sulfate and evaporated down under reduced pressure. When the residue is left to stand, 6.6 parts of a solid which has a melting point of 120° C. and is pure according to thin layer chromatography are obtained.

reactant | 1-hydroxy-2-phenylphenanthroimidazole | ON1C(=NC2=C1C=CC=1C=3C=CC=CC3C=CC12)C1=CC=CC=C1 | C21H14N2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dibutylcarbamyl chloride | C(CCC)N(C(=O)Cl)CCCC | C9H18ClNO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(N,N-dibutylaminocarbonyloxy)-2-phenylphenanthroimidazole | C(CCC)N(CCCC)C(=O)ON1C(=NC2=C1C=CC=1C=3C=CC=CC3C=CC12)C1=CC=CC=C1 | C30H31N3O2
